US08227625B2
A mixture of 4-(2-chloroethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene (0.25 g, 1.24 mmol), 4-phenylpiperidine hydrochloride (0.25 g, 1.25 mmol), K2CO3 (0.40 g, 2.89 mmol) and a catalytic amount of NaI in DMF (5 mL) is heated to 110° C. overnight. The solvent is removed at reduced pressure, diethyl ether is added to the residue and washed with water. The organic phase is dried and evaporated at reduced pressure and the resulting crude is purified by column chromatography, giving 4-phenyl-1-(2-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)ethyl)piperidine (0.24 g, 0.74 mmol, 59%, oil). 1H NMR (300 MHz, CDCl3): δ1.54 (m, 1H), 1.70-2.18 (m, 11H), 2.51 (m, 3H), 2.76 (m, 3H), 3.12 (m, 2H), 6.88 (d, J=5.2 Hz, 1H), 7.04 (d, J=5.2 Hz, 1H), 7.18-7.32 (m, 5H).

reactant | 4-(2-chloroethyl)-4,5,6,7-tetrahydrobenzo[b]thiophene | 1.24 mmol, 0.25 g | ClCCC1CCCC=2SC=CC21 | C10H13ClS
reactant | 4-phenylpiperidine hydrochloride | 1.25 mmol, 0.25 g | Cl.C1(=CC=CC=C1)C1CCNCC1
reactant | K2CO3 | 2.89 mmol, 0.40 g | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | [Na+].[I-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 4-phenyl-1-(2-(4,5,6,7-tetrahydrobenzo[b]thien-4-yl)ethyl)piperidine | 0.74 mmol, 0.24 g, 59% | C1(=CC=CC=C1)C1CCN(CC1)CCC1CCCC=2SC=CC21 | C21H27NS
